US05175162
To a mixture of 50 ml of methylene chloride and 1.9 g of aluminum chloride is added 1.0 ml of acetyl chloride with stirring under ice-cooling and then the mixture is stirred at room temperature for 10 minutes. To the mixture is further added 2.0 g of 2-(4-chlorophenyl)-5,6-dihydrothieno[2',3':2,3]thiepino[4,5-c]pyridazin-3(2H)-one under ice-cooling and the mixture is stirred for 3 hours at room temperature. To the mixture is added water and the solution is extracted with chloroform. The extract is washed with water, dried over magnesium sulfate and concentrated under reduced pressure. The resulting crystals are recrystallized from a mixed solvent of chloroform and ethanol to give 2.0 g of 9-acetyl-2-(4-chlorophenyl)-5,6-dihydrothieno[2',3':2,3]thiepino[4,5-c]pyridazin-3(2H)-one, as white crystals, melting at 248°-250° C.

reactant | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
reactant | aluminum chloride | 1.9 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | acetyl chloride | 1.0 ml | C(C)(=O)Cl | C2H3ClO
reactant | 2-(4-chlorophenyl)-5,6-dihydrothieno[2',3':2,3]thiepino[4,5-c]pyridazin-3(2H)-one | 2.0 g | ClC1=CC=C(C=C1)N1N=C2C(=CC1=O)CCSC1=C2C=CS1 | C16H11ClN2OS2
solvent | water | O | H2O
product | 9-acetyl-2-(4-chlorophenyl)-5,6-dihydrothieno[2',3':2,3]thiepino[4,5-c]pyridazin-3(2H)-one | 2.0 g | C(C)(=O)C1=CC2=C(SCCC=3C2=NN(C(C3)=O)C3=CC=C(C=C3)Cl)S1 | C18H13ClN2O2S2
